// Generated for: spectre
// Generated on: Dec  6 13:34:38 2019
// Design library name: CHARACTERIZATION
// Design cell name: FAST_BIAS
// Design view name: schematic
simulator lang=spectre
global 0
parameters VDS6=1.1 IDS6=3e-06 NF6=1 L6=3.5e-07 WF6=1.5e-05 VDS5=1.0 \
    IDS5=2e-06 NF5=1 L5=2.5e-07 WF5=5e-06 VDS4=0.5 IDS4=1e-06 NF4=1 \
    L4=1.8e-07 WF4=1e-05 VDS3=1.2 IDS3=1e-05 NF3=1 L3=5e-07 WF3=2e-05 \
    VDS2=1.1 IDS2=2e-06 NF2=1 L2=3.5e-07 WF2=1.2e-05 VDS1=1.0 IDS1=1e-06 \
    NF1=1 L1=1.8e-07 WF1=1e-06
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/config.scs" section=default
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/param.scs" section=3s
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/bip.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/cap.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/dio.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/mos.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/photo.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/res.scs" section=tm

// Library name: CHARACTERIZATION
// Cell name: BIAS_NMOS
// View name: schematic
subckt BIAS_NMOS
parameters WF L NF IDS VDS
    M0 (D G 0 0) ne w=WF l=L as=(int(((NF)-1)/2.0 )*5.4e-07+((int((NF)/2.0)-(NF)/2.0<-0.1)?1:2)*4.8e-07)*(WF)/(NF) \
         ad=(int((NF)/2.0 )*5.4e-07+(((int((NF)/2.0)-(NF)/2.0<-0.1)?1:0)*4.8e-07))*(WF)/(NF) \
         ps=(int(((NF)-1)/2.0 )*2*(5.4e-07+(WF))+((int((NF)/2)-(NF)/2.0<-0.1)?1:2)*2*(4.8e-07+(WF)))/(NF) \
         pd=(int((NF)/2.0 )*2*(5.4e-07+(WF))+((int((NF)/2.0)-(NF)/2.0<-0.1)?1:0)*2*(4.8e-07+(WF)))/(NF) \
         nrs=2.7e-07/(WF) nrd=2.7e-07/(WF) m=(1)*(NF) par1=((1)*(NF)) \
        xf_subext=0
    I0 (0 D) isource dc=IDS type=dc
    V1 (net6 0) vsource dc=VDS type=dc
    E0 (G 0 D net6) vcvs gain=1000
ends BIAS_NMOS
// End of subcircuit definition.

// Library name: CHARACTERIZATION
// Cell name: BIAS_PMOS
// View name: schematic
subckt BIAS_PMOS
parameters WF L NF IDS VDS
    M0 (D G S S) pe w=WF l=L as=(int(((NF)-1)/2.0 )*5.4e-07+((int((NF)/2.0)-(NF)/2.0<-0.1)?1:2)*4.8e-07)*(WF)/(NF) \
         ad=(int((NF)/2.0 )*5.4e-07+(((int((NF)/2.0)-(NF)/2.0<-0.1)?1:0)*4.8e-07))*(WF)/(NF) \
         ps=(int(((NF)-1)/2.0 )*2*(5.4e-07+(WF))+((int((NF)/2)-(NF)/2.0<-0.1)?1:2)*2*(4.8e-07+(WF)))/(NF) \
         pd=(int((NF)/2.0 )*2*(5.4e-07+(WF))+((int((NF)/2.0)-(NF)/2.0<-0.1)?1:0)*2*(4.8e-07+(WF)))/(NF) \
         nrs=2.7e-07/(WF) nrd=2.7e-07/(WF) m=(1)*(NF) par1=((1)*(NF))
    E0 (S G net5 D) vcvs gain=1000
    I0 (D S) isource dc=IDS type=dc
    V0 (S 0) vsource dc=1.8 type=dc
    V1 (S net5) vsource dc=VDS type=dc
ends BIAS_PMOS
// End of subcircuit definition.

// Library name: CHARACTERIZATION
// Cell name: FAST_BIAS
// View name: schematic
I2 BIAS_NMOS WF=WF3 L=L3 NF=NF3 IDS=IDS3 VDS=VDS3
I1 BIAS_NMOS WF=WF2 L=L2 NF=NF2 IDS=IDS2 VDS=VDS2
I0 BIAS_NMOS WF=WF1 L=L1 NF=NF1 IDS=IDS1 VDS=VDS1
I5 BIAS_PMOS WF=WF6 L=L6 NF=NF6 IDS=IDS6 VDS=VDS6
I4 BIAS_PMOS WF=WF5 L=L5 NF=NF5 IDS=IDS5 VDS=VDS5
I3 BIAS_PMOS WF=WF4 L=L4 NF=NF4 IDS=IDS4 VDS=VDS4
simulatorOptions options psfversion="1.1.0" reltol=100e-6 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 homotopy=all limit=delta scalem=1.0 \
    scale=1.0 compatible=spice2 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
